US07226923B2
2-(2′-Methyl-biphenyl-4-yl)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one
4-(1-tert-Butyl-5-methyl-1H-pyrazol-3-ylamino)-2-(2′-methyl-biphenyl-4-yl)-2H-phtalazin-1-one was deprotected with formic acid as described in Method O to give the title compound (0.036 g, 83% yield). 1H-NMR: (400 MHz, D6-DMSO) 9.29 (1H, s), 8.52 (1H, d), 8.40 (1H, d), 8.17 (1H, s), 7.97 (1H, t), 7.93 (1H, t), 7.82 (2H, d), 7.48 (2H, d), 7.30 (4H, m), 6.29 (1H, s), 2.33 (3H, s), 2.20 (3H, s); MS (ESI+)=408.16 (M+H)+.

reactant | 4-(1-tert-Butyl-5-methyl-1H-pyrazol-3-ylamino)-2-(2′-methyl-biphenyl-4-yl)-2H-phtalazin-1-one | C(C)(C)(C)N1N=C(C=C1C)NC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C29H29N5O
solvent | formic acid | C(=O)O | CH2O2
product | 2-(2′-Methyl-biphenyl-4-yl)-4-(5-methyl-1H-pyrazol-3-ylamino)-2H-phthalazin-1-one | 0.036 g, 83% yield | CC1=C(C=CC=C1)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=N1)NC1=NNC(=C1)C)=O | C25H21N5O
